US04943583
56.9 g (0.29 mol) of 2-chloro-6-fluorobenzoyl chloride are introduced dropwise into a solution, cooled to 0° C., of 52.8 g (0.29 mol) of 2-chlorophenylhydrazine hydrochloride in 290 ml of pyridine so that the temperature of the solution does not exceed 5° C. The solution is stirred at room temperature for 16 hours and the solvent is subsequently evaporated off azeotropically with toluene under reduced pressure. The resulting red-brown suspension is taken up in 350 ml of diethyl ether and the solution is washed in sequence twice with dilute hydrochloric acid and in each case once with 5% sodium bicarbonate solution and with saturated sodium chloride solution. The aqueous phases are back-extracted with 350 ml of diethyl ether and the combined organic phases are dried over anhydrous magnesium sulfate and then evaporated. After recrystallization of the residue from acetone/n-hexane there is obtained 2-chloro-6-fluoro-N'-(o-chlorophenyl)-benzhydrazide, m.p. 156°-158° C.; IR spectrum: 1692 cm-1.

reactant | 2-chloro-6-fluorobenzoyl chloride | 0.29 mol, 56.9 g | ClC1=C(C(=O)Cl)C(=CC=C1)F | C7H3Cl2FO
reactant | 2-chlorophenylhydrazine hydrochloride | 0.29 mol, 52.8 g | Cl.ClC1=C(C=CC=C1)NN
solvent | pyridine | 290 ml | N1=CC=CC=C1 | C5H5N
product | 2-chloro-6-fluoro-N'-(o-chlorophenyl)-benzhydrazide | ClC1=C(C(=O)NNC2=C(C=CC=C2)Cl)C(=CC=C1)F | C13H9Cl2FN2O
